US06369110B1
A mixture of ethyl 6,7,8,9-tetrahydro-5-oxo-5H-benzocycloheptene-6-carboxylate (12.0 g, 51.7 mmol), potassium ethoxide (4.78 g, 56.8 mmol) and toluene (200 ml) was stirred at room temperature for 0.5 hour and then distilled under reduced pressure to remove the solvent. The residue was dissolved in N-methylpyrrolidinone (150 ml), followed by adding thereto methyl p-toluenesulfonate (10.6 g, 56.8 mmol), and the resulting mixture was stirred at 55-60° C. for 1 hour. The reaction mixture was poured into a cold aqueous sodium chloride solution and extracted twice with ethyl acetate, and the extract solution was washed twice with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was dissolved in ethanol. The resulting solution was cooled to 0° C., followed by adding thereto sodium tetrahydroborate (0.98 g, 25.8 nmol), and the resulting mixture was stirred at 0° C. for 1.5 hours. The reaction mixture was poured into a cold aqueous ammonium chloride solution and extracted twice with ethyl acetate, and the extract solution was washed twice with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/98) to obtain 6.66 g of ethyl 9-methoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate.

reactant | ethyl 6,7,8,9-tetrahydro-5-oxo-5H-benzocycloheptene-6-carboxylate | 51.7 mmol, 12.0 g | O=C1C(CCCC2=C1C=CC=C2)C(=O)OCC | C14H16O3
reactant | potassium ethoxide | 56.8 mmol, 4.78 g | [O-]CC.[K+]
reactant | methyl p-toluenesulfonate | 56.8 mmol, 10.6 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium tetrahydroborate | 25.8 nmol, 0.98 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 9-methoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 6.66 g | COC1=C(CCCC2=C1C=CC=C2)C(=O)OCC | C15H18O3
